US04886803
N-(2-Pyridyl)-1-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]benzimidazole-2-carboxamide
In an argon atmosphere, N-(2-pyridyl)benzimidazole-2-carboxamide (1.55 g) was dissolved in DMSO (20 ml), and 60% sodium hydride (0.28 g) was added and stirred at room temperature for 1 hr. A solution (7 ml) of 2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl chloride (1.65 g) in DMSO was added dropwise and stirred at room temperature overnight. The reaction solution was poured into an aqueous solution of ammonium chloride and extracted with chloroform, and the chloroform layer was dired. The residue obtained by distilling off the solvent was purified by column chromatography on silica gel to give the title compound (1.54 g) as amorphous solid.

reactant | N-(2-pyridyl)benzimidazole-2-carboxamide | 1.55 g | N1=C(C=CC=C1)NC(=O)C=1NC2=C(N1)C=CC=C2 | C13H10N4O
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | 2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl chloride | 7 ml, 1.65 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCl | C13H19ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | N-(2-Pyridyl)-1-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]benzimidazole-2-carboxamide | 1.54 g | N1=C(C=CC=C1)NC(=O)C1=NC2=C(N1CCN1CCN(CC1)C1=C(C=CC=C1)OC)C=CC=C2 | C26H28N6O2
